US06359134B1
To a solution of 1-(tert-butoxycarbonyl)-4-(4-chlorobenzoylmethanesulfonyl)piperazine (640 mg) and 2-chloro-1-methylpyridinium iodide (650 mg) in dichloromethane (8 ml) was added dropwise triethylamine (4 ml) at 0° C., and the mixture was stirred at room temperature for 24 hours. The reaction solution was concentrated and purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give a colorless solid of 1-(tert-butoxycarbonyl)-4-[2-(4-chlorophenyl)ethynesulfonyl]piperazine (521 mg).

reactant | 1-(tert-butoxycarbonyl)-4-(4-chlorobenzoylmethanesulfonyl)piperazine | 640 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)CC(C1=CC=C(C=C1)Cl)=O | C17H23ClN2O5S
reactant | 2-chloro-1-methylpyridinium iodide | 650 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 1-(tert-butoxycarbonyl)-4-[2-(4-chlorophenyl)ethynesulfonyl]piperazine | 521 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C#CC1=CC=C(C=C1)Cl | C17H21ClN2O4S
